US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1,5-dimethyl-1H-pyrazole-3-carboxamide
To a solution of 1,5-dimethyl-1H-pyrazole-3-carboxylic acid (109 mg, 0.78 mmol) in tetrahydrofuran (4.0 mL) were added N,N-dimethylformamide (30 μL, 0.39 mmol) and oxalyl chloride (135 μL, 1.55 mmol), and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, and a solution of the residue in tetrahydrofuran (2.0 mL) was added dropwise to a solution of N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropylcarboxamide (200 mg, 0.65 mmol) and triethylamine (360 μL, 2.59 mmol) in tetrahydrofuran (4.0 mL). After stirring at room temperature for 2 hr, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate/tetrahydrofuran, washed with saturated brine, dried over anhydrous magnesium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/4→ethyl acetate) and precipitated from hexane/ethyl acetate to give the title compound (118 mg, 42%) as a white powder.

reactant | 1,5-dimethyl-1H-pyrazole-3-carboxylic acid | 0.78 mmol, 109 mg | CN1N=C(C=C1C)C(=O)O | C6H8N2O2
reactant | N,N-dimethylformamide | 0.39 mmol, 30 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 1.55 mmol, 135 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropylcarboxamide | 0.65 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | triethylamine | 2.59 mmol, 360 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1,5-dimethyl-1H-pyrazole-3-carboxamide | 118 mg, 42% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NN(C(=C2)C)C)C1 | C22H21N7O3
